US07776875B2
Preparation of Intermediate 4-(4-chloro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
To a mixture of 5-chloro-2-hydroxy-benzaldehyde (3.15 g, 20 mmol), KI (0.1 g) and K2CO3 (8.28 g, 60 mmol) in DMF (100 mL) was added 4-methanesulfonyloxy-piperidine-1-caboxylic acid tert-butyl ester (7.26 g, 26 mmol). The mixture was heated at 100° C. for 2 h, then cooled to room temperature and partitioned between ethyl acetate and water. The organic layer was washed with 1N NaOH (30 mL), water, and dried over anhydrous Na2SO4, concentrated to give the title compound as white solid (Yield: 5.3 g, 78%).

reactant | 5-chloro-2-hydroxy-benzaldehyde | 20 mmol, 3.15 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | K2CO3 | 60 mmol, 8.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methanesulfonyloxy-piperidine-1-caboxylic acid tert-butyl ester | 26 mmol, 7.26 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | Yield: 5.3 g, 78% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Cl)C=O | C17H22ClNO4
